US06090825
D. 4-[5-(2,4-Difluoro-phenyl)-4-methoxycarbonyl-oxazol-2-yl]-piperidine-1-carboxylic acid benzyl ester
To a 1 liter round bottom flask fitted with a condenser, nitrogen inlet, and magnetic stir bar is added 4-[2-(2,4-Difluoro-phenyl)-1-methoxycarbonyl-2-oxo-ethylcarbamoyl]-piperidine-1-carboxylic acid benzyl ester, (32 g, 67.4 mmol), and 120 mL of thionyl chloride. The mixture is immersed in an oil bath preheated to 70° C. and stirred for 10 minutes. The reaction is removed, cooled to room temperature and concentrated to an amber oil. The amber oil is carefully treated with about 50 g of ice, and 350 mL of saturated sodium bicarbonate. The resulting mixture is extracted with 3×100 mL of diethyl ether. The organic layers are combined, washed with brine, dried over magnesium sulfate and concentrated to a thick amber paste to yield the title compound.

reactant | 4-[2-(2,4-Difluoro-phenyl)-1-methoxycarbonyl-2-oxo-ethylcarbamoyl]-piperidine-1-carboxylic acid benzyl ester | 67.4 mmol, 32 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(NC(C(=O)C1=C(C=C(C=C1)F)F)C(=O)OC)=O | C24H24F2N2O6
solvent | thionyl chloride | 120 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-[5-(2,4-Difluoro-phenyl)-4-methoxycarbonyl-oxazol-2-yl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1OC(=C(N1)C(=O)OC)C1=C(C=C(C=C1)F)F | C24H22F2N2O5
